### PR TITLE
feat(Mathlib/RingTheory/WeaklyEtale/Pi): finite product of weakly étale algebras

### PR DESCRIPTION
**Pull request by chrisflav**
## Summary

Upstreams `Algebra.WeaklyEtale.pi` from the `archon` branch: a finite product of weakly étale `A`-algebras is weakly étale.

Two auxiliary results are added as `private`:
- `Module.Flat.finitePi`: a finite product of flat modules is flat.
- `Pi.evalRingHom_flat`: a projection out of a finite product of commutative rings is a flat ring map (via the localization-away-from-an-idempotent characterization).

The proof of the main instance reduces flatness of `lmul' A S` for `S = ∀ i, B i` to per-factor flatness of `lmul' A (B k)` (which holds by `Algebra.WeaklyEtale.flat_lmul'`) using the naturality square `proj_k ∘ lmul' A S = lmul' A (B k) ∘ map proj_k proj_k`.

## Test plan

- [x] `lake build Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean` succeeds with no errors or warnings.
- [x] Full `lake build` succeeds.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean [hunk 1]
```diff
@@ -0,0 +1,113 @@
...
+Copyright (c) 2026 Christian Merten. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Christian Merten
+-/
+import Mathlib.RingTheory.Etale.Pi
+import Mathlib.RingTheory.Localization.Away.Basic
+import Mathlib.RingTheory.Flat.Localization
+import Mathlib.RingTheory.Flat.Stability
+import Proetale.Algebra.WeaklyEtale
+
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean]: Files in `Proetale/Mathlib` may not import non-mathlib files from outside `Proetale/Mathlib`. Move this file to a different folder.

File: Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean [hunk 2]
```diff
@@ -0,0 +1,113 @@
...
+universe u v
+
+open scoped TensorProduct
+
+/-- A finite product of flat modules is flat. -/
+private lemma Module.Flat.finitePi
+    {R : Type*} [CommSemiring R] {ι : Type*} [Finite ι]
+    {M : ι → Type*} [∀ i, AddCommMonoid (M i)] [∀ i, Module R (M i)]
+    [∀ i, Module.Flat R (M i)] : Module.Flat R (∀ i, M i) := by
+  classical
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean]: This should not be private and in an appropriate file.

File: Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean [hunk 3]
```diff
@@ -0,0 +1,113 @@
...
+  exact .of_linearEquiv (DirectSum.linearEquivFunOnFintype R ι M).symm
+
+/-- A projection from a finite product of commutative rings is flat as a ring map.
+
+The projection identifies `B i` with the localization of `∀ j, B j` away from the
+idempotent `Pi.single i 1`. -/
+private lemma _root_.Pi.evalRingHom_flat
+    {ι : Type*} (B : ι → Type*) [∀ i, CommRing (B i)] (i : ι) :
+    (Pi.evalRingHom B i).Flat := by
+  classical
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean]: Unprivate and move to an appropriate file.

File: Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean [hunk 4]
```diff
@@ -0,0 +1,113 @@
...
+  letI : Algebra (∀ j, B j) (B i) := (Pi.evalRingHom B i).toAlgebra
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean]: Use `algebraize`.

File: Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean [hunk 5]
```diff
@@ -0,0 +1,113 @@
...
+  exact IsLocalization.flat (B i) (Submonoid.powers (Pi.single i 1 : ∀ j, B j))
+
+namespace Algebra
+
+/-- A finite product of weakly étale algebras over `A` is weakly étale. -/
+instance WeaklyEtale.pi {A : Type u} [CommRing A]
+    {ι : Type v} [Finite ι] {B : ι → Type*}
+    [∀ i, CommRing (B i)] [∀ i, Algebra A (B i)]
+    [∀ i, Algebra.WeaklyEtale A (B i)] :
+    Algebra.WeaklyEtale A (∀ i, B i) := by
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/WeaklyEtale/Pi.lean:29]: The proof is bad: Show first that `WeaklyEtale` is a local property (similar as `Algebra.FinitePresentation.of_span_eq_top_target_of_isLocalizationAway`). Then deduce this lemma from this by using the standard cover of the product.

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Mathlib/RingTheory/WeaklyEtale/Local.lean [hunk 6]
```diff
@@ -0,0 +1,79 @@
...
+
+universe u v
+
+open TensorProduct
+
+namespace Algebra.WeaklyEtale
+
+/-- Being a weakly étale algebra can be checked on a standard cover of the target. -/
+lemma of_span_eq_top_target_of_isLocalizationAway
+    {R S : Type*} [CommRing R] [CommRing S] [Algebra R S]
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/WeaklyEtale/Local.lean:31]: Also add the `Localization.Away` variant of this lemma.

File: Proetale/Mathlib/RingTheory/WeaklyEtale/Local.lean [hunk 7]
```diff
@@ -0,0 +1,79 @@
...
+  refine ⟨?_, ?_⟩
+  · exact Module.flat_of_isLocalized_span S S (Set.range s) hs
+      (fun r ↦ T (idx r)) (fun r ↦ Algebra.linearMap S (T (idx r)))
+      (fun _ ↦ inferInstance)
+  · algebraize [(Algebra.TensorProduct.lmul' R (S := S)).toRingHom]
+    haveI : IsScalarTower (S ⊗[R] S) S S := .right
+    letI alg (r : Set.range s) : Algebra (S ⊗[R] S) (T (idx r)) :=
+      ((algebraMap S (T (idx r))).comp (algebraMap (S ⊗[R] S) S)).toAlgebra
+    haveI tower (r : Set.range s) : IsScalarTower (S ⊗[R] S) S (T (idx r)) :=
+      IsScalarTower.of_algebraMap_eq fun _ ↦ rfl
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/WeaklyEtale/Local.lean]: Use `let` / `have` instead of `letI` and `haveI` in proofs.

File: Proetale/Mathlib/RingTheory/Flat/Pi.lean [hunk 8]
```diff
@@ -0,0 +1,46 @@
...
+    [∀ i, Module.Flat R (M i)] : Module.Flat R (∀ i, M i) := by
+  classical
+  cases nonempty_fintype ι
+  exact .of_linearEquiv (DirectSum.linearEquivFunOnFintype R ι M).symm
+
+/-- A projection from a finite product of commutative rings is flat as a ring map.
+
+The projection identifies `B i` with the localization of `∀ j, B j` away from the
+idempotent `Pi.single i 1`. -/
+lemma Pi.evalRingHom_flat {ι : Type*} (B : ι → Type*) [∀ i, CommRing (B i)] (i : ι) :
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Flat/Pi.lean]:
```suggestion
lemma Pi.flat_evalRingHom {ι : Type*} (B : ι → Type*) [∀ i, CommRing (B i)] (i : ι) :
```

**Comment by chrisflav** [comment]
orchestra address review
